US05371208
Gels comprising agarose and ethyleneglycol diglycidylether prepared at different polymer/cross-linker ratios. A series of gel comprising 1% agarose polymer in 0.1M NaOH and 0.05, 0.1, 0.2, 0.4 and 0.6 ml of ethyleneglycol diglycidylether in 10 ml was prepared by incubation at room temperature for 4 days. Electrophoresis showed reduced migration distances with increasing cross-linker concentration. Resolution was inferior to that obtained with butanediol diglycidylether.

reactant | ethyleneglycol diglycidylether | C(C1CO1)OCCOCC1CO1 | C8H14O4
reactant | ethyleneglycol diglycidylether | 0.6 ml | C(C1CO1)OCCOCC1CO1 | C8H14O4
solvent | NaOH | 0.1M | [OH-].[Na+]
product | butanediol diglycidylether | C(C1CO1)OC(CCC)OCC1CO1 | C10H18O4
